US09034879B2
Step 1: 3-Amino-6-bromo-N′-(2-phenylacetyl)-5-(trifluoromethyl)picolinohydrazide
To a stirred solution of 3-amino-6-bromo-5-(trifluoromethyl)picolinohydrazide (Int. H) (150 mg, 0.502 mmol) in NMP (4 ml) was added phenylacetic acid (57 mg, 0.419 mmol) followed by DIPEA (366 ul, 2.093 mmol). To this solution was added HATU (239 mg, 0.628 mmol) portionwise and the reaction mixture was left to stir at RT for 1 h. The reaction mixture was added to EtOAc (25 ml) and the organic portion was separated and washed with 0.1M HCl (2×15 ml), water (25 ml), 0.1M NaOH (2×15 ml), water (25 ml), brine (25 ml) dried (Mg SO4) and concentrated in vacuo. The crude product was purified by chromatography on silica eluting with 1:1 EtOAc/iso-hexane to afford the title compound as a yellow solid; 1H NMR (400 MHz, DMSO-d6) δ 10.30 (1H, s), 10.20 (1H, s), 7.70 (1H, s), 7.38 (4H, m), 7.25 (3H, m), 3.55 (2H, s). LC-MS Rt=1.43 min [M+H]+ 417.1 Method 2minLC_v002.

reactant | 3-amino-6-bromo-5-(trifluoromethyl)picolinohydrazide | 0.502 mmol, 150 mg | NC=1C(=NC(=C(C1)C(F)(F)F)Br)C(=O)NN | C7H6BrF3N4O
reactant | phenylacetic acid | 0.419 mmol, 57 mg | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | DIPEA | 2.093 mmol, 366 ul | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.628 mmol, 239 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | NMP | 4 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
product | 3-Amino-6-bromo-N′-(2-phenylacetyl)-5-(trifluoromethyl)picolinohydrazide | NC=1C(=NC(=C(C1)C(F)(F)F)Br)C(=O)NNC(CC1=CC=CC=C1)=O | C15H12BrF3N4O2
